US05721230
A mixture of 10 g (34.1 mmol) of ethyl 1-phenylindole-3-glyoxylate and about 25 g of Raney nickel in 350 ml of ethanol and 150 ml of water was heated at reflux for 6 hours. The suspension was filtered through glass fiber filter paper and the solid was washed with four 50 ml portions of ethyl acetate while taking care not to allow the solid to dry. The filtrate was concentrated under reduced pressure and the residue was purified by flash chromatography on silica gel using ethyl acetate/hexane (1:2) for the elution. There were obtained 6.38 g of ethyl 1-phenylindole-3-acetate as a yellow oil.

reactant | ethyl 1-phenylindole-3-glyoxylate | 34.1 mmol, 10 g | C1(=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(C(=O)OCC)=O | C18H15NO3
catalyst | Raney nickel | about 25 g | [Ni] | Ni
solvent | ethanol | 350 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | ethyl 1-phenylindole-3-acetate | 6.38 g | C1(=CC=CC=C1)N1C=C(C2=CC=CC=C12)CC(=O)OCC | C18H17NO2
